US06562989B2
2-chloro-1,1′-biphenyl (Table 14, Entry 1)
2-Bromochlorobenzene (96 mg, 0.50 mmol) reacted with phenylboronic acid (79 mg, 0.65 mmol) using 1/2 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.50 mmol) in THF at room temperature to give the title compound (88 mg, 93%) as a white solid: 1H-NMR (400 MHz, CDCl3): δ 7.40-7.19 (m, 9H). 13C{1H}-NMR (100 MHz, CDCl3): δ 140.45, 139.33, 132.43, 131.32, 129.88, 129.39, 128.47, 127.99, 127.55, 126.77. GC/MS(EI):188 (M+), 190, 152, 76.

reactant | 2-Bromochlorobenzene | 0.50 mmol, 96 mg | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | phenylboronic acid | 0.65 mmol, 79 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | KF | 1.50 mmol, 87 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-1,1′-biphenyl | 88 mg, 93% | ClC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Cl
